US03998894
A mixture of 90 parts of styrene, 234 parts of p-chlorostyrene and 66 parts of p-chloroethylbenzene is added to 722 parts of 93 per cent strength by weight phosphoric acid at 35° to 40° C over 5 hours. After a further 2 hours at 35° to 40° C the organic phase is separated off and washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution. Fractional distillation gives 16 parts of 1-methyl-3-phenylindan, 78 parts of 1-methyl-3-(p-chloro)-phenylindan (b.p. 166° to 170° C (10 mm), nD25 : 1.5869) and 13 parts of 1-methyl-3-(p-chloro)-phenyl-5-chloroindan (b.p. 197° to 204° C (10 mm)).

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | p-chlorostyrene | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | p-chloroethylbenzene | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
